### PR TITLE
Add Erdős Problem 763 (Erdős–Fuchs theorem), link the formal disproof

### LINKED ISSUE #6242: Erdős Problem 763
### What is the Erdős problem?

https://www.erdosproblems.com/763

Let $A\subseteq \mathbb{N}$. Can there exist some constant $c>0$ such that $\sum_{n\leq N} 1_A\ast 1_A(n) = cN+O(1)$?

Status: disproved (Erdős–Fuchs theorem, in the strong form that even an error term $o(N^{1/4}/(\log N)^{1/2})$ is impossible; improved to $o(N^{1/4})$ by Jurkat and Montgomery–Vaughan). A formal proof exists in plby/lean-proofs (`Erdos763.not_erdos_763`, Codex and GPT-5.6 Sol). Related to #764.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6242.

### What changed
Adds `FormalConjectures/ErdosProblems/763.lean` with:
- `erdos_763` (`research solved`, `answer(False)`): no `A ⊆ ℕ` and `c > 0` have `∑_{n ≤ N} (1_A ∗ 1_A)(n) = cN + O(1)` (Erdős–Fuchs [ErFu56]), stated with the existing `sumRep`. Linked to plby/lean-proofs `Erdos763.not_erdos_763` (Codex and GPT-5.6 Sol; single Mathlib-only file).
- `erdos_763.variants.erdos_fuchs` (error term `o(N^{1/4}/√(log N))` impossible) and `montgomery_vaughan` (`o(N^{1/4})` impossible [MoVa90]).

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos763.not_erdos_763` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's representation count is the sum over `range (n+1)`; the bridge identifies it with `sumRep` via `Finset.Nat.sum_antidiagonal_eq_sum_range_succ_mk`):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics AdditiveCombinatorics

namespace Bridge763

lemma sumRep_eq (A : Set ℕ) (n : ℕ) : sumRep A n = Erdos763Plby.representationCount A n := by
  classical
  unfold sumRep sumConv Erdos763Plby.representationCount
  rw [Finset.Nat.sum_antidiagonal_eq_sum_range_succ_mk]
  refine Finset.sum_congr rfl fun k _ => ?_
  simp [Set.indicatorOne, Set.indicator, Erdos763Plby.indicator]

lemma summatory_eq (A : Set ℕ) (N : ℕ) :
    ∑ n ∈ Finset.range (N + 1), sumRep A n = Erdos763Plby.summatoryRepresentationCount A N := by
  unfold Erdos763Plby.summatoryRepresentationCount
  simp only [sumRep_eq]

theorem erdos_763_bridge : type_of% Erdos763.erdos_763 := by
  show False ↔ _
  simp only [false_iff]
  rintro ⟨A, c, hc, h⟩
  refine Erdos763Plby.not_erdos_763 ⟨A, c, hc, ?_⟩
  refine h.congr_left fun N => ?_
  rw [← summatory_eq]
  push_cast
  rfl

end Bridge763
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«763»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/763.lean [hunk 1]
```diff
@@ -0,0 +1,79 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/763.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
